US07713994B2
(4Z)-4-{[(4-Morpholin-4-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione
A mixture of 4-methoxymethylene-4H-isoquinoline-1,3-dione (101.5 mg, 0.5 mmol), 4-morpholin-4-yl-phenylamine (89.12 mg, 0.5 mmol) in 1 mL of N,N-dimethylformamide is heated at 110° C. for 1 h. After cooling in the refrigerator, the precipitate is collected, and washed with ether to give 139 mg (80%) of greenish yellow solid mp 257-258° C.; MS (ESI) m/z 350.17 (M+1); Analysis for C20H19N3O3: Calcd: C, 68.75; H, 5.48; N, 12.03. Found: C, 68.49; H, 5.57; N, 11.90.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.5 mmol, 101.5 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-morpholin-4-yl-phenylamine | 0.5 mmol, 89.12 mg | N1(CCOCC1)C1=CC=C(C=C1)N | C10H14N2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-{[(4-Morpholin-4-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 139 mg, 80% | N1(CCOCC1)C1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C20H19N3O3
